US09085570B2
A mixture of 2-(pyridin-3-yl)acetonitrile (1 g, 8.47 mmol, 1.00 equiv), Raney nickel (1 g, 17.24 mmol, 1.00 equiv) and ammonium hydroxide (3 mL) in methanol (15 mL) was stirred under 1 atmosphere of hydrogen at room temperature overnight. The catalyst was removed by filtration through a pad of Celite and washed with several portions of methanol. The filtrate and washings were combined and concentrated under vacuum to give 940 mg (45%) of 2-(pyridin-3-yl)ethanamine as a yellow oil. LC-MS: (ES, m/z): 164 [M+CH3CN+H]+, 123 [M+H]+, 106.

reactant | 2-(pyridin-3-yl)acetonitrile | 8.47 mmol, 1 g, 1.00 equiv | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 17.24 mmol, 1 g, 1.00 equiv | [Ni] | Ni
solvent | methanol | 15 mL | CO | CH4O
product | 2-(pyridin-3-yl)ethanamine | 940 mg, 45% | N1=CC(=CC=C1)CCN | C7H10N2
